US06809199B2
Step F: tert-Butyl 3-[4,6-dibromo-2-(2,4-difluorophenyl)pyridin-3-yl]propanoate
To a −78° C. solution of the lithium bis(trimethylsilylamide) (14 mL) in mL of THF was added t-butylacetate (2 mL). After stirring for 10 min, 4,6-dibromo-2-(2,4-difluorophenyl)-3-methylpyridine (1.0 g) dissolved in 3 mL THF was added dropwise. The mixture stirred at −78° C. for 1.5 h, then warmed to −50° C. The reaction mixture was then recooled to −78° C. and 3 mL of methanol was added. The solution stirred for 24 h at rt. The crude mixture was purified by flash chromatography, eluting with 50% ethyl acetate/hexanes. Mass spectrum m/z (ESI) 478.3 (M+1).

reactant | lithium bis(trimethylsilylamide) | 14 mL | C[Si](C)(C)[NH-].C[Si](C)(C)[NH-].[Li+].[Li+]
reactant | t-butylacetate | 2 mL | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | 4,6-dibromo-2-(2,4-difluorophenyl)-3-methylpyridine | 1.0 g | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)F)C | C12H7Br2F2N
reactant | methanol | 3 mL | CO | CH4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-[4,6-dibromo-2-(2,4-difluorophenyl)pyridin-3-yl]propanoate | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)F)CCC(=O)OC(C)(C)C | C18H17Br2F2NO2
